US05696272
Preparation of (Benzimidoylamino)acetic Acid
A white suspension of glycine (3.81 g, 50 mmol) in water (0.9 g) and methanol (16 ml) was stirred at room temperature, adjusted to pH 9.6 by the addition of sodium hydroxide solution and admixed with ethyl benzimidate (7.69 g, 50 mmol). The mixture was heated for 1 hour at 50° C. and allowed to cool at room temperature. The solid was filtered off, washed with toluene and dried at room temperature/30 mbar. The yield of the title compound was 6.81 g (approximately 95 percent pure by H-NMR), 74 percent based on glycine. Other data concerning the title compound was:

reactant | glycine | 50 mmol, 3.81 g | NCC(=O)O | C2H5NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl benzimidate | 50 mmol, 7.69 g | C(C1=CC=CC=C1)(OCC)=N | C9H11NO
solvent | water | 0.9 g | O | H2O
solvent | methanol | 16 ml | CO | CH4O
product | (Benzimidoylamino)acetic Acid | C(C1=CC=CC=C1)(=N)NCC(=O)O | C9H10N2O2
